* File: distributed.dist.pex
* Created: Thu May  7 12:32:59 2026
* Program "Calibre xRC"
* Version "v2016.2_18.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV%VDD 1 4 9 10 13 VSS
c26 13 VSS 0.0458522f
c27 10 VSS 0.00486362f
c28 9 VSS 0.0516058f
c29 4 VSS 0.087782f
c30 1 VSS 0.0171139f
r31 13 18 0.0287943
r32 12 13 2.1
r33 9 18 0.274957
r34 9 10 4.2
r35 2 13 0.0287943
r36 2 4 0.301196
r37 1 12 4.1946
.ends

.subckt PM_INV%IN 1 3 9 11 15 16 19 23 VSS
c36 23 VSS 0.0300141f
c37 19 VSS 0.0269804f
c38 16 VSS 0.0960503f
c39 15 VSS 0.0304931f
c40 11 VSS 0.0269804f
c41 9 VSS 0.0960582f
c42 7 VSS 0.00680826f
c43 1 VSS 0.119281f
r44 22 23 4
r45 16 22 10.4989
r46 16 19 4.42261
r47 14 15 4
r48 9 14 9.68292
r49 9 11 3.62817
r50 6 23 0.109128
r51 6 7 0.0205689
r52 5 15 0.111022
r53 5 7 0.0205689
r54 1 7 0.0155015
r55 1 3 0.413913
.ends

.subckt PM_INV%OUT 1 6 7 10 13 16 VSS
c33 16 VSS 6.77114e-19
c34 13 VSS 0.00486362f
c35 10 VSS 0.00486362f
c36 7 VSS 0.065909f
c37 6 VSS 0.120015f
c38 1 VSS 0.0822234f
r39 12 13 4.4
r40 9 16 0.0263103
r41 9 10 4.2
r42 7 12 0.198846
r43 4 6 0.243823
r44 3 7 0.0379936
r45 3 6 0.194111
r46 1 4 0.0379936
r47 1 16 0.171623
.ends

.subckt PM_INV%GND 1 4 8 10 12 13 23 VSS
c27 23 VSS 0.0188949f
c28 13 VSS 0.00486362f
c29 12 VSS 0.0516058f
c30 8 VSS 0.0538818f
c31 7 VSS 0.0331313f
c32 4 VSS 0.046317f
c33 1 VSS 0.0171139f
r34 16 23 0.0189968
r35 15 16 2.1
r36 12 23 0.275696
r37 12 13 4.4
r38 8 10 0.0900855
r39 6 8 0.00457843
r40 6 7 0.149674
r41 5 16 0.0189968
r42 4 7 0.0379936
r43 4 5 0.358478
r44 1 15 4.69247
.ends

